US07129239B2
Preparation of Intermediate 1-Benzhydryl-3-methylaminoazetidine-3-carboxylic Acid Amide (I-(29A-7)b)
A vigorously stirred solution of 1-benzhydryl-3-methylaminoazetidine-3-carbonitrile (I-(29A-7)a; 2.10 g, 7.57 mmol) in methylene chloride (25 ml) cooled in an ice bath was treated with H2SO4 (4.0 ml, 76 mmol), dropwise. After the reaction mixture was allowed to warm to room temperature and stir overnight, it was cooled in an ice bath and then carefully quenched with concentrated NH4OH to pH 11. The mixture was extracted with methylene chloride, the combined organic layers were dried (Na2SO4) and then concentrated, in vacuo, to afford I-(29A-7)b (1.2 g, 54%) as an off-white solid: +ES MS (M+1) 296.3; 1H NMR (400 MHz, CD3OD) δ 7.41 (d, J=7.5 Hz, 4H), 7.25 (t, J=7.5 Hz, 4H), 7.16 (t, J=7.1 Hz, 2H), 4.48 (s, 1H), 3.41 (d, J=8.7 Hz, 2H), 3.09 (d, J=8.7 Hz, 2H), 2.24 (s, 3H).

reactant | 1-benzhydryl-3-methylaminoazetidine-3-carbonitrile | 7.57 mmol, 2.10 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C#N)NC | C18H19N3
reactant | H2SO4 | 76 mmol, 4.0 ml | OS(=O)(=O)O | H2O4S
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
product | 1-Benzhydryl-3-methylaminoazetidine-3-carboxylic Acid Amide | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)(C(=O)N)NC | C18H21N3O
